US09376418B2
Xantphos (93 mg, 0.161 mmol), palladium(II) acetate (24.2 mg, 0.108 mmol), and cesium carbonate (350 mg, 1.08 mmol) were added to a degassed solution of 2-chloro-4-(trifluoromethyl)pyrimidine (103 mg, 0.565 mmol), 1-{6-[3-amino-5-(morpholin-4-yl)phenyl]pyridin-2-yl}cyclobutanol (175 mg, 0.538 mmol) in dioxane (45.3 mL) and the reaction mixture was heated to 100° C. for 2 hours and then for 5 hours at 115° C. Then, the reaction mixture was cooled to room temperature, diluted with water, extracted with ethyl acetate, washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by silica gel chromatography (ethyl acetate:hexanes) to afford 1-{6-[3-(morpholin-4-yl)-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl]pyridin-2-yl}cyclobutanol as an off-white solid. MS APCI calc'd for C24H25F3N5O2 [M+H]+ 472. found 472. 1H NMR (NMR Hz 400 MHz, Acetone-d6): δ 9.26 (s, 1H), 8.82 (d, J=4.8 Hz, 1H), 8.16 (s, 1H), 7.90 (t, J=7.8 Hz, 1H), 7.84-7.77 (m, 2H), 7.66 (d, J=7.8 Hz, 1H), 7.53 (s, 1H), 7.23 (d, J=4.9 Hz, 1H), 3.86 (t, J=4.4 Hz, 4H), 3.30 (t, J=4.4 Hz, 4H), 2.74-2.63 (m, 2H), 2.43 (m, 2H), 2.04 (m, 2H).

reactant | Xantphos | 0.161 mmol, 93 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 1.08 mmol, 350 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 0.565 mmol, 103 mg | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | 1-{6-[3-amino-5-(morpholin-4-yl)phenyl]pyridin-2-yl}cyclobutanol | 0.538 mmol, 175 mg | NC=1C=C(C=C(C1)N1CCOCC1)C1=CC=CC(=N1)C1(CCC1)O | C19H23N3O2
solvent | dioxane | 45.3 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | palladium(II) acetate | 0.108 mmol, 24.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-{6-[3-(morpholin-4-yl)-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl]pyridin-2-yl}cyclobutanol | N1(CCOCC1)C=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC=CC(=N1)C1(CCC1)O | C24H24F3N5O2
